US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate and cyclopropanecarboxylic acid chloride, there is obtained ethyl N-cyclopropylcarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 97°-99° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | ethyl N-cyclopropylcarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1(CC1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C21H22N2O2
